US04354038
Within the framework of the process according to the invention, sulphophthalic acid are 3-sulphophthalic acid and 4-sulphophthalic acid. They can be reacted according to the invention either on their own or as a mixture, to give 3-hydroxybenzoic acid. Preferably, a mixture of the two isomeric sulphophthalic acids such as is obtained from the sulphonation of phthalic anhydride with oleum is used for the process according to the invention. The mixture obtained from the said sulphonation is a mixture of 3-sulphophthalic acid and 4-sulphophthalic acid in a ratio of 1:4 to 1:6.

reactant | sulphophthalic acid | S(=O)(=O)(O)C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H6O7S
reactant | 4-sulphophthalic acid | S(=O)(=O)(O)C=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O7S
product | 3-hydroxybenzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
